US08614206B2
5-amino-N-(5-((4S,5R)-4-amino-5-fluoroazepan-1-yl)-1-methyl-1H-pyrazol-4-yl)-2-(2-fluorophenyl)thiazole-4-carboxamide 296
Following the procedure for Example 221 starting from N-(1-(4-amino-1-methyl-1H-pyrazol-5-yl)-5-fluoroazepan-4-yl)-2,2,2-trifluoroacetamide and 5-(tert-butoxycarbonyl-amino)-2-(2-fluorophenyl)thiazole-4-carboxylic acid gave, after purification via silica gel column chromatography (5-7% MeOH/DCM with 1% 7 N ammonia in MeOH), 296 as a cream solid (128 mg, 59% over three steps). 1H NMR (400 MHz, CDCl3) δ 8.72 (s, 1H), 8.13-8.08 (m, 1H), 7.84 (s, 1H), 7.40-7.32 (m, 1H), 7.29-7.20 (m, 1H), 7.17 (dd, J=11.4, 8.3 Hz, 1H), 6.10 (s, 2H), 4.89 (dd, J=47.0, 7.0 Hz, 1H), 3.74 (s, 3H), 3.50-3.31 (m, 3H), 3.22-3.09 (m, 2H), 2.37-2.27 (m, 1H), 2.12-1.89 (m, 2H), 1.86-1.78 (m, 1H). Alkyl NH2 not seen. LCMS (ES+) m/z 448 (M+1)

reactant | N-(1-(4-amino-1-methyl-1H-pyrazol-5-yl)-5-fluoroazepan-4-yl)-2,2,2-trifluoroacetamide | NC=1C=NN(C1N1CCC(C(CC1)F)NC(C(F)(F)F)=O)C | C12H17F4N5O
reactant | 5-(tert-butoxycarbonyl-amino)-2-(2-fluorophenyl)thiazole-4-carboxylic acid | C(C)(C)(C)OC(=O)NC1=C(N=C(S1)C1=C(C=CC=C1)F)C(=O)O | C15H15FN2O4S
product | 5-amino-N-(5-((4S,5R)-4-amino-5-fluoroazepan-1-yl)-1-methyl-1H-pyrazol-4-yl)-2-(2-fluorophenyl)thiazole-4-carboxamide | NC1=C(N=C(S1)C1=C(C=CC=C1)F)C(=O)NC=1C=NN(C1N1CC[C@@H]([C@@H](CC1)F)N)C | C20H23F2N7OS
